US20010011137A1
1-Trityl-4,5,6,7-tetrahydro-1H-benzotriazole
25 g (0.2 mol) of tetrahydrobenzotriazole, 55.8 g of trityl chloride and 20.2 g of triethylamine are boiled for 4 h in 250 ml of abs. acetonitrile. The solvent is stripped off and the residue is partitioned between methylene chloride and water. The organic phase is dried (Na2SO4), filtered and concentrated. The residue is recrystallized from acetonitrile. 45 g of the title compound are obtained.

reactant | tetrahydrobenzotriazole | 0.2 mol, 25 g | N1NNC2C1=CC=CC2 | C6H9N3
reactant | trityl chloride | 55.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 20.2 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-Trityl-4,5,6,7-tetrahydro-1H-benzotriazole | 45 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NC2=C1CCCC2 | C25H23N3
